US06821984B2
5-Chloropentanoic acid (2-chloro-4,6-dimethylphenyl)amide (21.7 g), potassium t-butoxide (9.34 g), and sodium iodide (1.2 g) were combined in 200 mL t-butanol and the mixture was stirred in a 60° C. oil bath for 3 h. After cooling to room temperature, the reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was washed with additional ethyl acetate. The organic phases were washed with brine, dried with magnesium sulfate, and concentrated to give 18.9 g of 1-(2-chloro-4,6-dimethylphenyl)piperidin-2-one as a solid, mp. 107.7-108.7° C.

reactant | 5-Chloropentanoic acid (2-chloro-4,6-dimethylphenyl)amide | 21.7 g | ClC1=C(C(=CC(=C1)C)C)NC(CCCCCl)=O | C13H17Cl2NO
reactant | potassium t-butoxide | 9.34 g | CC(C)([O-])C.[K+]
reactant | sodium iodide | 1.2 g | [I-].[Na+]
solvent | t-butanol | 200 mL | C(C)(C)(C)O | C4H10O
product | 1-(2-chloro-4,6-dimethylphenyl)piperidin-2-one | 18.9 g | ClC1=C(C(=CC(=C1)C)C)N1C(CCCC1)=O | C13H16ClNO
